US06051712
(ddd) In an analogous manner to that described in Example 1 (g), by alkylating tert-butyl (3SR,4RS,5RS)-4-(4-hydroxymethyl-phenyl)-3-methoxymethyl-5-(naphthalen-2-yl-methoxy)-piperidine-1-carboxylate with benzyl bromide there was obtained tert-butyl (3SR,4RS,5RS)-4-(4-benzyloxymethyl-phenyl)-3-methoxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a colourless oil; MS: 582 (M+H)+.

reactant | tert-butyl (3SR,4RS,5RS)-4-(4-hydroxymethyl-phenyl)-3-methoxymethyl-5-(naphthalen-2-yl-methoxy)-piperidine-1-carboxylate | OCC1=CC=C(C=C1)C1C(CN(CC1OCC1=CC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C)COC | C30H37NO5
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | tert-butyl (3SR,4RS,5RS)-4-(4-benzyloxymethyl-phenyl)-3-methoxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCC1=CC=C(C=C1)C1C(CN(CC1OCC1=CC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C)COC | C37H43NO5
